US06821967B2
9-{4-[4-(6-chloro-quinolin-2-yl)-[1.4] diazepan-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide
Prepared analogously to Example 2 from 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide and 6-chloro-2-[1.4]diazepan-1-yl-quinoline

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO
reactant | 6-chloro-2-[1.4]diazepan-1-yl-quinoline | ClC=1C=C2C=CC(=NC2=CC1)N1CCNCCC1 | C14H16ClN3
product | 9-{4-[4-(6-chloro-quinolin-2-yl)-[1.4] diazepan-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCN(CCC1)C1=NC2=CC=C(C=C2C=C1)Cl)(F)F | C34H34ClF3N4O
